US07326791B2
3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(2-ethoxycarbonylmethyl-3-oxopiperazin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from rac.-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid, TBTU, diisopropylethylamine, and 3-(ethoxycarbo-nylmethyl)piperazin-2-one in DMF. Yield: 37%; Rf value: 0.49 (silica gel; dichloromethane/ethanol=10:1); C25H25Cl2N5O5 (546.41); mass spectrum: (M+H)+=546/548/550 (chlorine isotope).

reactant | rac.-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C(=O)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C17H13Cl2N3O3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(ethoxycarbo-nylmethyl)piperazin-2-one | C(C)OC(=O)CC1C(NCCN1)=O | C8H14N2O3
reactant | chlorine | ClCl | Cl2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(2-ethoxycarbonylmethyl-3-oxopiperazin-1-ylcarbonyl)benzamide | Yield: 37% | ClC=1C=C(C(=O)NC(C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1C(C(NCC1)=O)CC(=O)OCC | C25H25Cl2N5O5
